US07700599B2
Ethyl 6-[(4-fluorophenyl)oxy]-3-pyridinecarboxylate (D13)
Sodium hydride (0.653 g, 60% in mineral oil, 16.338 mmol) was suspended in DMF (10 mL) under argon, and 4-fluorophenol (0.915 g, 8.169 mmol) added in two portions. The mixture was stirred for 20 minutes then ethyl 6-chloro-3-pyridinecarboxylate (1.515 g, 8.169 mmol) was added together with additional DMF (4 mL) added to aid solubility. The mixture was heated to 80° C. for 2.5 h. The reaction mixture was allowed to cool to room temperature and water (30 mL) was added. The solution was acidified to pH 3 with 2M HCl and extracted with ethyl acetate (×3). The combined ethyl acetate layers were dried and concentrated to produce a brown oil. The crude product was purified by chromatography. Elution with a 0-25% Et2O/petroleum ether gradient gave the title compound as a colourless oil (0.284 g). δH (CDCl3, 400 MHz) 8.81 (1H, dd), 8.28 (1H, dd), 7.11 (4H, m), 6.95 (1H, d), 4.37 (2H, q), 1.38 (3H, t). MS (ES): MH+ 262.2.

reactant | Sodium hydride | 16.338 mmol, 0.653 g | [H-].[Na+]
reactant | 4-fluorophenol | 8.169 mmol, 0.915 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | ethyl 6-chloro-3-pyridinecarboxylate | 8.169 mmol, 1.515 g | ClC1=CC=C(C=N1)C(=O)OCC | C8H8ClNO2
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | Ethyl 6-[(4-fluorophenyl)oxy]-3-pyridinecarboxylate | 0.284 g | FC1=CC=C(C=C1)OC1=CC=C(C=N1)C(=O)OCC | C14H12FNO3
